US08470884B2
To a solution of [4-(3-tert-butoxycarbonylamino-1-methylene-propyl)-6-fluoro-3-methyl-naphthalen-2-yl]-acetic acid methyl ester (0.79 g, 2.0 mmol) in methylene chloride (28.5 mL) was added trifluoroacetic acid (7.5 mL, 98 mmol). The reaction mixture was stirred at room temperature for 4 hours. The solvent was removed under vacuum and the resulting brown residue was dissolved in toluene. The solvent was again removed under vacuum, then dissolved in methylene chloride (−5 mL) with heating. The mixture was diluted with hexanes (˜10 mL). As a result, some oil precipitated. The mixture was diluted with dichloromethane and the dark brown solution was stored in the refrigerator for 15 hours; however, further precipitation of the product was not successful. The solvent was removed and the crude mixture (1.1 g) was purified using flash chromatography (80 g ISCO column, 0-100% methylene chloride in hexanes followed by 0-20% methanol in methylene chloride) to afford [4-(3-amino-1-methylene-propyl)-6-fluoro-3-methyl-naphthalen-2-yl]-acetic acid methyl ester (0.502 g, 75%) as a white, amorphous, and hygroscopic solid. 1H NMR (400 MHz, CDCl3) δ ppm 7.64-7.71 (m, 1H), 7.55-7.59 (m, 1H), 7.32-7.38 (m, 1H), 7.16 (td, J=8.5, 2.3 Hz, 1H), 5.53 (s, 1H), 5.09 (s, 1H), 3.77-3.81 (m, 2H), 3.67-3.71 (m, 4H), 2.99 (d, J=6.0 Hz, 2H), 2.65 (t, J=7.4 Hz, 2H), 2.28 (s, 4H).

reactant | [4-(3-tert-butoxycarbonylamino-1-methylene-propyl)-6-fluoro-3-methyl-naphthalen-2-yl]-acetic acid methyl ester | 2.0 mmol, 0.79 g | COC(CC1=CC2=CC=C(C=C2C(=C1C)C(CCNC(=O)OC(C)(C)C)=C)F)=O | C23H28FNO4
reactant | trifluoroacetic acid | 98 mmol, 7.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 28.5 mL | C(Cl)Cl | CH2Cl2
product | [4-(3-amino-1-methylene-propyl)-6-fluoro-3-methyl-naphthalen-2-yl]-acetic acid methyl ester | 0.502 g, 75% | COC(CC1=CC2=CC=C(C=C2C(=C1C)C(CCN)=C)F)=O | C18H20FNO2
